US05216020
Step B: Preparation of 4,5-Dihydrothieno[2,3-b]thiophene-2-carboxylic acid
Methyl 4,5-dihydrothieno[2,3-b]thiophene-2-carboxylate (9.5 g, 50 mmol) was dissolved in 200 mL THF followed by treatment with 100 mL of 20% sodium hydroxide and stirred overnight. THF was removed in vacuo to give a dark residue. The residue was taken up in water and extracted with ethyl acetate two times. The aqueous phase was then acidified to pH<1 with conc. HCl and extracted 3×200 mL ethyl acetate. The combined extracts were washed with: 1× water, 2× brine followed by drying over magnesium sulfate. The solution was filtered and the solvent evaporated to give the title compound as a solid (8.1 g). 1H NMR (300 MHz,DMSO-d6) d 2.5(t,2H), 2.8(t,2H), 7.5(s,1H), 12.8(bs,1H exch).

reactant | Methyl 4,5-dihydrothieno[2,3-b]thiophene-2-carboxylate | 50 mmol, 9.5 g | S1C(=CC2=C1SCC2)C(=O)OC | C8H8O2S2
reactant | sodium hydroxide | 100 mL | [OH-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4,5-Dihydrothieno[2,3-b]thiophene-2-carboxylic acid | 8.1 g | S1C(=CC2=C1SCC2)C(=O)O | C7H6O2S2
